US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(dimethylamino)propylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(dimethylamino)propylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (114 mg, 0.167 mmol) in DCM (1 ml) was added TFA (0.4 ml, 5.19 mmol). The mixture was stirred at rt for 5 h and was concentrated under reduced pressure. The residue was purified by prep HPLC. The fractions containing the expected product were combined and concentrated under reduced pressure to afford the title compound as a white solid (77 mg, 0.122 mmol, 73.3% yield). LCMS: m/e 629.6 (M−H)−, 2.22 min (method 6). 1H NMR (500 MHz, Acetic acid) δ ppm 8.03 (d, J=8.24 Hz, 2H) 7.30 (d, J=8.24 Hz, 2H), 5.37 (d, J=4.58 Hz, 1H), 4.79 (s, 1H), 4.68 (s, 1H), 3.32-3.44 (m, 3H), 3.25-3.32 (m, 2H), 2.96 (d, J=13.12 Hz, 1H), 2.89-2.94 (m, 6H), 2.49-2.58 (m, 1H), 2.30-2.38 (m, J=8.09, 7.86, 7.74, 7.74 Hz, 2H), 1.75 (s, 3H), 1.19 (s, 3H), 1.13-2.23 (m, 22H), 1.09 (s, 3H), 1.08 (s, 3H), 1.02 (s, 3H), 1.00 (s, 3H).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(dimethylamino)propylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.167 mmol, 114 mg | CN(CCCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C)C | C46H72N2O2
reactant | TFA | 5.19 mmol, 0.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(dimethylamino)propylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.122 mmol, 77 mg, 73.3% yield | CN(CCCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)C | C42H64N2O2
